US08957215B2
To 2-(6-fluoropyridin-3-yl)-5-methoxy-1,3-benzothiazole (59.2 mg, 0.227 mmol) was added methylamine in ethanol (8 M, 2 mL) and the reaction mixture was heated in a microwave oven at 100° C. for 5 min. Water and dichloromethane were added and the layers separated. The aqueous phase was extracted with dichloromethane (3×). The combined organic phases were washed with water, dried (MgSO4), filtered and the solvent removed in vacuo. The crude material was purified by column chromatography (heptane/EtOAc 60:40 to 50:50) to give the title compound (39 mg) as a pale yellow solid. 1H NMR δ ppm 8.68 (d, 1 H) 7.98 (dd, 1 H) 7.91 (d, 1 H) 7.50 (d, 1 H) 7.27 (q, 1 H) 7.01 (dd, 1 H) 6.59 (d, 1 H) 3.85 (s, 3 H) 2.86 (d, 3 H); MS m/z (M+H) 272.

reactant | 2-(6-fluoropyridin-3-yl)-5-methoxy-1,3-benzothiazole | 0.227 mmol, 59.2 mg | FC1=CC=C(C=N1)C=1SC2=C(N1)C=C(C=C2)OC | C13H9FN2OS
reactant | methylamine | CN | CH5N
reactant | Water | O | H2O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | ethanol | 8 M, 2 mL | C(C)O | C2H6O
product | 5-(5-Methoxy-1,3-benzothiazol-2-yl)-N-methylpyridin-2-amine | 39 mg | COC=1C=CC2=C(N=C(S2)C=2C=CC(=NC2)NC)C1 | C14H13N3OS
